US09302989B2
N-[4-(1-propyl-1H-pyrazol-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-propyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and N-(4-bromophenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.85 (t, J=7.3 Hz, 3H), 1.69-1.93 (m, 2H), 4.05 (t, J=6.9 Hz, 2H), 4.77 (s, 4H), 7.26-7.40 (m, 4H), 7.42-7.49 (m, 2H), 7.52-7.61 (m, 2H), 7.79 (s, 1H), 8.07 (s, 1H), 8.33 (s, 1H); MS (ESI(+)) m/e 347 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromophenyl)isoindoline-2-carboxamide | BrC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H13BrN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-[4-(1-propyl-1H-pyrazol-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(CC)N1N=CC(=C1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C21H22N4O
